US04933447
5-Morpholino-8-nitroquinoline, 3.90 g, was dissolved into 30 ml of water and 30 ml of hydrochloric acid. To this mixture 10.2 g of stannous chloride.dihydrate was added and the mixture was heated on a water bath under stirring for 1 hour. After cooling, the mixture was neutralized with potassium carbonate and extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate. Ethyl acetate was evaporated to produce 1.83 g (yield: 53%) of 8-amino-5-morpholinoquinoline. This compound was dissolved into 10 ml of water and 6 ml of concentrated HCl, and to the solution an aqueous solution containing 0.62 g of sodium nitrite was added dropwise while stirring at -15° C. The diazonium salt thus obtained was neutralized with sodium bicarbonate, and resulting product was added at 0° C. into an aqueous solution of cuprous cyanide (prepared from 2.0 g of cuprous chloride and 3.4 g of potassium cyanide). The mixture was stirred at the same temperature for 1 hour, then at 70° C. for 30 minutes to complete the reaction. The reaction mixture was extracted with ethyl acetate and the extract was dried over anhydrous sodium sulfate. Ethyl acetate was evaporated and the residue was refined by column chromatography on silica gel using a chloroform-n-hexane (3:2) mixed solvent as an eluent. The crystals thus obtained were recrystallized from ethanol to yield 0.12 g (yield: 6.2%) of 5-morpholino-8-quinolinecarbonitrile (Compound No. 13)

reactant | 5-Morpholino-8-nitroquinoline | O1CCN(CC1)C1=C2C=CC=NC2=C(C=C1)[N+](=O)[O-] | C13H13N3O3
reactant | hydrochloric acid | 30 ml | Cl | ClH
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | 30 ml | O | H2O
product | 8-amino-5-morpholinoquinoline | 1.83 g, yield: 53% | NC=1C=CC(=C2C=CC=NC12)N1CCOCC1 | C13H15N3O
